US06489344B1
6-[(2-{[4-(2-chloro-4-fluorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]-amino}ethyl)amino]pyridine-3-carbonitrile was prepared from 4-fluoro-2-chlorobenzoyl chloride using the general method for 6-[(2-{[4-(2,4-dichlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]amino}ethyl)amino]pyridine-3-carbonitrile.

reactant | 4-fluoro-2-chlorobenzoyl chloride | FC1=CC(=C(C(=O)Cl)C=C1)Cl | C7H3Cl2FO
reactant | 6-[(2-{[4-(2,4-dichlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]amino}ethyl)amino]pyridine-3-carbonitrile | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=C(N1)C)NCCNC1=CC=C(C=N1)C#N | C22H18Cl2N8
product | 6-[(2-{[4-(2-chloro-4-fluorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]-amino}ethyl)amino]pyridine-3-carbonitrile | ClC1=C(C=CC(=C1)F)C1=NC(=NC=C1C=1NC=C(N1)C)NCCNC1=CC=C(C=N1)C#N | C22H18ClFN8
